US07723347B2
2-Fluoro-N1-(3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine
20 mg (50 μmol) of N-(2-fluoro-4-nitrophenyl)-3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine are dissolved in 8 ml of a mixture of ethanol/THF (1:1). 11 mg (50 μmol) of platinum(I) oxide are added, and the mixture is stirred under a hydrogen atmosphere at atmospheric pressure overnight. The suspension is then filtered through Celite, the Celite is washed with a little ethanol and the solvent is removed under reduced pressure.

reactant | N-(2-fluoro-4-nitrophenyl)-3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-amine | 50 μmol, 20 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)N(C=C2C)COCC[Si](C)(C)C | C20H25FN4O3Si
solvent | ethanol THF | C(C)O.C1CCOC1
catalyst | platinum(I) oxide | 50 μmol, 11 mg | [Pt-]=O
product | 2-Fluoro-N1-(3-methyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | FC1=C(C=CC(=C1)N)NC1=C2C(=NC=C1)N(C=C2C)COCC[Si](C)(C)C | C20H27FN4OSi
